US05854234
Fusaric acid (2 g), diphenylphosphoryl azide (2.4 mL) and triethylamine (1.6 mL) in t-butanol (70 mL) were refluxed overnight. The contents were concentrated in vacuo and treated with 25% aqueous HBr (20 mL) for 24 hours. After neutralizing with 50% NaOH, contents were extracted with CH2Cl2, dried (MgSO4) and concentrated in vacuo to give 2-amino-5-(n-butyl)pyridine as an oil (1.1 g).

reactant | Fusaric acid | 2 g | CCCCC=1C=CC(=NC1)C(=O)O | C10H13NO2
reactant | diphenylphosphoryl azide | 2.4 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | t-butanol | 70 mL | C(C)(C)(C)O | C4H10O
product | 2-amino-5-(n-butyl)pyridine | 1.1 g | NC1=NC=C(C=C1)CCCC | C9H14N2
